US05990142
2B Ethyl 8-nitro-4-oxo-4H-benzopyran-2-carboxylate
A mixture of ethyl 6-bromo-8-nitro-4-oxo-4H-1-benzopyran-2-carboxylate (5.0 g, 14.6 mmol), 10% palladium-on-charcoal (0.541 g), formic acid (7.90 ml) and N,N-dimethylformamide (42 ml) was stirred at 145° C. for 5.75 h under inert atmosphere. After this time the mixture was left to cool and the catalyst was removed by filtration, washing it with N,N-dimethylformamide. The resulting filtrate was evaporated to dryness and the obtained residue was purified by chromatography through a silica gel column. Eluting with hexane:chloroform, 85:15, 2.109 g of the title product were recovered (55% yield).

reactant | ethyl 6-bromo-8-nitro-4-oxo-4H-1-benzopyran-2-carboxylate | 14.6 mmol, 5.0 g | BrC=1C=C(C2=C(C(C=C(O2)C(=O)OCC)=O)C1)[N+](=O)[O-] | C12H8BrNO6
reactant | formic acid | 7.90 ml | C(=O)O | CH2O2
catalyst | palladium-on-charcoal | 0.541 g | [Pd] | Pd
solvent | N,N-dimethylformamide | 42 ml | CN(C=O)C | C3H7NO
product | Ethyl 8-nitro-4-oxo-4H-benzopyran-2-carboxylate | 55% yield | [N+](=O)([O-])C1=CC=CC=2C(C=C(OC21)C(=O)OCC)=O | C12H9NO6
